US04800211
3-Hydroxy-N-(3-trifluoromethylphenyl)-benzo[b]thiophene-2-carboxamide
A mixture of methyl 3-hydroxy-benzothiophene2-carboxylate (1.04 g; 0.005M) and 3-trifluoromethylaniline (1.61 g; 0.010M) is heated under a nitrogen atmosphere at 170° C. for 90 minutes. and then at 200° C. for 30 minutes. The reaction was cooled at room temperature, taken up in ether and the solid was collected, washed with ether and air dried. The solid was recrystallized from ethyl acetate to give 0.96 g (57% yield) of the title compound; m.p. 205°-208° C. (dec).

reactant | methyl 3-hydroxy-benzothiophene2-carboxylate | 0.005M, 1.04 g | OC1=C(SC2=C1C=CC=C2)C(=O)OC | C10H8O3S
reactant | 3-trifluoromethylaniline | 0.010M, 1.61 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | ether | CCOCC | C4H10O
product | 3-Hydroxy-N-(3-trifluoromethylphenyl)-benzo[b]thiophene-2-carboxamide | 0.96 g, 57% yield | OC=1C2=C(SC1C(=O)NC1=CC(=CC=C1)C(F)(F)F)C=CC=C2 | C16H10F3NO2S
